US09303033B2
To tert-butyl 5-chloropyrazolo[1,5-a]pyrimidin-7-yl(2-morpholinopropyl)carbamate (396 mg, 1 mmol), 5-chloro-2-fluoroaniline (145 uL, 1.2 mmol), and LiHMDS (2.2 mL, 2.2 mmol, 1M in THF) was added X-Phos (11 mg, 0.024 mmol) and tris(dibenzylideneacetone)dipalladium(0) (18 mg, 0.02 mmol). The mixture was sealed and irradiated at 65° C. for 60 min in the microwave. The reaction was quenched with 1N HCL (2 mL) and then neutralized with saturated sodium bicarbonate solution. The mixture was extracted with ethyl acetate and washed with saturated sodium chloride solution. The organic layer was collected, dried over anhydrous sodium sulfate, filtered, and evaporated to dryness. The crude residue was dissolved in dichloromethane (2 mL) and trifluoroacetic acid (2 mL). After stirring at room temperature for 1 hour, the solution was concentrated under a stream of nitrogen. The crude material was neutralized with saturated sodium bicarbonate solution then purified by silica gel chromatography (75% ethyl acetate/hexanes) to yield the product, N5-(5-chloro-2-fluorophenyl)-N7-(2-morpholinopropyl)pyrazolo[1,5-a]pyrimidine-5,7-diamine (84 mg, 21% yield). LCMS (M+1=405)

reactant | tert-butyl 5-chloropyrazolo[1,5-a]pyrimidin-7-yl(2-morpholinopropyl)carbamate | 1 mmol, 396 mg | ClC1=NC=2N(C(=C1)N(C(OC(C)(C)C)=O)CC(C)N1CCOCC1)N=CC2 | C18H26ClN5O3
reactant | 5-chloro-2-fluoroaniline | 1.2 mmol, 145 uL | ClC=1C=CC(=C(N)C1)F | C6H5ClFN
reactant | LiHMDS | 2.2 mmol, 1M, 2.2 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | X-Phos | 0.024 mmol, 11 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.02 mmol, 18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N5-(5-chloro-2-fluorophenyl)-N7-(2-morpholinopropyl)pyrazolo[1,5-a]pyrimidine-5,7-diamine | 84 mg, 21% yield | ClC=1C=CC(=C(C1)NC1=NC=2N(C(=C1)NCC(C)N1CCOCC1)N=CC2)F | C19H22ClFN6O
